US08466181B2
a) 4-{4-[5-(4-Fluoro-phenyl)-3-methyl-3H-[1,2,3]triazol-4-yl]-imidazol-1-yl}-benzoic acid
A solution of lithium hydroxide monohydrate (85 mg, 2.01 mmol) in water (2.5 mL) was added dropwise to a suspension of 4-{4-[5-(4-fluoro-phenyl)-3-methyl-3H-[1,2,3]triazol-4-yl]-imidazol-1-yl}-benzoic acid methyl ester (380 mg, 1.01 mmol) in THF (2.5 mL) and methanol (0.5 mL). The reaction mixture was then stirred at room temperature for 1 h and was then evaporated and the residue dissolved in water, acidified with HCl (1 N), and the resulting precipitate filtered off to afford the title product (315 mg, 86%) as a white solid. MS: m/e=362.3 [M−H]−.

reactant | lithium hydroxide monohydrate | 2.01 mmol, 85 mg | O.[OH-].[Li+]
reactant | 4-{4-[5-(4-fluoro-phenyl)-3-methyl-3H-[1,2,3]triazol-4-yl]-imidazol-1-yl}-benzoic acid methyl ester | 1.01 mmol, 380 mg | COC(C1=CC=C(C=C1)N1C=NC(=C1)C=1N(N=NC1C1=CC=C(C=C1)F)C)=O | C20H16FN5O2
solvent | water | 2.5 mL | O | H2O
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
solvent | methanol | 0.5 mL | CO | CH4O
product | 4-{4-[5-(4-Fluoro-phenyl)-3-methyl-3H-[1,2,3]triazol-4-yl]-imidazol-1-yl}-benzoic acid | 315 mg, 86% | FC1=CC=C(C=C1)C1=C(N(N=N1)C)C=1N=CN(C1)C1=CC=C(C(=O)O)C=C1 | C19H14FN5O2
